US07253318B2
A mixture of 500 mg of [4(4-fluoro-benzyloxy)-phenoxy]-acetic acid ethyl ester [Example 1b)] and 2 ml of methylamine (about 8 M in ethanol) was stirred at 80° C. during 18 h. For the working-up, the solution was cooled to room temperature and treated with water. The pure product precipitated and was collected on a filter funnel. After drying there were obtained 398 mg (86% of theory) of 2-[4-(4-fluoro-benzyloxy)-phenoxy]-N-methyl-acetamide as white crystals; MS: m/e=290 (M+H)+.

reactant | [4(4-fluoro-benzyloxy)-phenoxy]-acetic acid ethyl ester | 500 mg | C(C)OC(COC1=CC=C(C=C1)OCC1=CC=C(C=C1)F)=O | C17H17FO4
reactant | methylamine | about 8 M, 2 ml | CN | CH5N
solvent | water | O | H2O
product | 2-[4-(4-fluoro-benzyloxy)-phenoxy]-N-methyl-acetamide | 398 mg, 86% | FC1=CC=C(COC2=CC=C(OCC(=O)NC)C=C2)C=C1 | C16H16FNO3
